US09260363B2
Synthesis of 1-(10-bromoanthracen-9-yl)pyrene
A mixture of 15 g (44.6 mmol) of 9,10-dibromoanthracene, 11 g (44.6 mmol) of pyren-1-ylboronic acid, 0.52 g (0.446 mmol) of Tetrakis(triphenylphosphine)palladium, 33 ml of 2M Na2CO3, 60 ml of EtOH and 150 ml toluene was degassed and placed under nitrogen, and then heated at 90° C. for 24 h. After the reaction finish, the mixture was allowed to cool to room temperature. The organic layer was extracted with ethyl acetate and water, dried with anhydrous magnesium sulfate, the solvent was removed and the residue was purified by column chromatography on silica (hexane-dichloromethane) to give product 8.8 g (43%) as a yellow solid.

reactant | 9,10-dibromoanthracene | 44.6 mmol, 15 g | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)Br | C14H8Br2
reactant | pyren-1-ylboronic acid | 44.6 mmol, 11 g | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)B(O)O | C16H11BO2
reactant | Na2CO3 | 2M, 33 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 60 ml | CCO | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium | 0.446 mmol, 0.52 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(10-bromoanthracen-9-yl)pyrene | 8.8 g, 43% | BrC1=C2C=CC=CC2=C(C2=CC=CC=C12)C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C30H17Br
